Conversion of Pspice counter

.subckt counter high clear clk qa qb qc qd 5 7 9 11
U1 JKFF(1) $G_DPWR $G_DGND  HIGH CLEAR CLK HIGH HIGH QA 5
+ D0_EFF IO_STD IO_LEVEL=0 MNTYMXDLY=2
U2 JKFF(1) $G_DPWR $G_DGND  HIGH CLEAR QA HIGH HIGH QB 7
+ D0_EFF IO_STD IO_LEVEL=0 MNTYMXDLY=2
U3 JKFF(1) $G_DPWR $G_DGND  HIGH CLEAR QB HIGH HIGH QC 9
+ D0_EFF IO_STD IO_LEVEL=0 MNTYMXDLY=2
U4 JKFF(1) $G_DPWR $G_DGND  HIGH CLEAR QC HIGH HIGH QD 11
+ D0_EFF IO_STD IO_LEVEL=0 MNTYMXDLY=2
.MODEL D0_EFF UEFF ()
.ends counter

*** input sources ***
vclk 100 0 pulse( 0.0 1.0 50ns 0ns 0ns 50ns 100ns )
vreset 200 0  pulse( 1.0 0.0 10ns 0ns 0ns 50ns ) 
vhigh 300 0 DC 1.0

*** adc_bridge blocks ***
aconverter [100 200 300] [clock clr hi] adc_bridge1
.model adc_bridge1 adc_bridge (in_low=0.1 in_high=0.9 
+                              rise_delay=1.0e-12 fall_delay=1.0e-12)

*** resistors to ground ***
r1 100 0 1k
r2 200 0 1k
r3 300 0 1k
r4 q1b 0 1k
r5 q2b 0 1k
r6 q3b 0 1k
r7 q4b 0 1k

x1 hi clr clock q1 q2 q3 q4 q1b q2b q3b q4b counter

.TRAN 1e-008 1u 0 
.save all

.control
*TRAN 1e-008 1u 0 
run
listing r
display
edisplay
print q2b q3b q4b
eprint hi clr clock q1 q2 q3 q4
quit
.endc
.END
